US05155250
2,6-Dimethyl-4 [2-(trimethylsilyl)ethyl]phenol
Mix sodium metal (520 mg, 22.6 mmol) and liquid ammonia (13 mL). To this solution add, by dropwise addition, a solution of 4-hydroxy-3,5-dimethyl-α-[(trimethylsilyl)-methyl]benzenemethanol (2.22 g, 10 mmol) in ethyl alcohol (0.5 g) and ethyl ether (5 ml). After the blue color disappears, cautiously add water (13 mL), extract with ethyl ether, dry (MgSO4), and evaporate the solvent. Purify the residue by silica gel chromatography to yield the title compound.

reactant | sodium | 22.6 mmol, 520 mg | [Na] | Na
reactant | ammonia | 13 mL | N | H3N
reactant | 4-hydroxy-3,5-dimethyl-α-[(trimethylsilyl)-methyl]benzenemethanol | 10 mmol, 2.22 g | OC1=C(C=C(C=C1C)C(O)C[Si](C)(C)C)C | C13H22O2Si
solvent | ethyl alcohol | 0.5 g | C(C)O | C2H6O
solvent | ethyl ether | 5 ml | C(C)OCC | C4H10O
product | 2,6-Dimethyl-4 [2-(trimethylsilyl)ethyl]phenol | CC1=C(C(=CC(=C1)CC[Si](C)(C)C)C)O | C13H22OSi
